US08623859B2
N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (150 mg, 0.42 mmol), CDI (276 mg, 0.84 mmol) and 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine (80 mg, 0.42 mmol) in DCE (8 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.42 mmol, 150 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.84 mmol, 276 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine | 0.42 mmol, 80 mg | N1C(=NCC1)C1=CC=C(C=C1)CCNC | C12H17N3
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
product | N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide | N1C(=NCC1)C1=CC=C(C=C1)CCN(C(=O)C1=COC(=C1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C)C | C28H34N4O5S
